US05866567
(3aR*,10aS*)-9-[4-(3-Benzyl-3-methylureido)benzyl]-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
To a solution of (3aR*,10aS*)-9-[4-(phenoxycarbonylamino)benzyl]-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one (0.43 g, 1 mmol) in DMF (5 mL) was added N-benzylmethylamine (0.14 mL, 1.1 mmol) and the mixture was stirred at room temperature for 84 hours. This reaction mixture was diluted with ethyl acetate and washed with 2 portions of water and, then, with saturated aqueous NaCl solution. This solution was dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate=1:1) to provide 0.30 g (yield 66%) of the title compound. Amorphous.

reactant | (3aR*,10aS*)-9-[4-(phenoxycarbonylamino)benzyl]-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 1 mmol, 0.43 g | O(C1=CC=CC=C1)C(=O)NC1=CC=C(CN2C3=C(N[C@H]4[C@@H](C2=O)CCC4)C=CC=C3)C=C1 | C26H25N3O3
reactant | N-benzylmethylamine | 1.1 mmol, 0.14 mL | C(C1=CC=CC=C1)CN | C8H11N
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3aR*,10aS*)-9-[4-(3-Benzyl-3-methylureido)benzyl]-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 0.30 g, yield 66% | C(C1=CC=CC=C1)N(C(NC1=CC=C(CN2C3=C(N[C@H]4[C@@H](C2=O)CCC4)C=CC=C3)C=C1)=O)C | C28H30N4O2
